US05374772
A mixture of 1.5 g (4.86 mmol) of 3-(decyloxy)-5-hydroxybenzoic acid methyl ester, 2.2 g (4.86 mmol) of 1-(6-bromohexyl)-2,3-bis (phenylmethoxy)benzene, 1.3 g (9.7 mmol) of potassium carbonate and 0.73 g (4.86 mmol) of sodium iodide in 50 ml of acetone and 15 ml of DMF was stirred at reflux for 48 hours. After the usual workup, the crude product was purified by HPLC using 10% ethyl acetate-hexane to give 2.47 g (75% yield, mp 45°-46°) of 3-(decyloxy)-5-[[6-[2,3-bis(phenylmethoxy)phenyl]hexyl]oxy]benzoic acid methyl ester.

reactant | 3-(decyloxy)-5-hydroxybenzoic acid methyl ester | 4.86 mmol, 1.5 g | COC(C1=CC(=CC(=C1)O)OCCCCCCCCCC)=O | C18H28O4
reactant | 1-(6-bromohexyl)-2,3-bis (phenylmethoxy)benzene | 4.86 mmol, 2.2 g | BrCCCCCCC1=C(C(=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C26H29BrO2
reactant | potassium carbonate | 9.7 mmol, 1.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 4.86 mmol, 0.73 g | [I-].[Na+]
solvent | acetone | 50 ml | CC(=O)C | C3H6O
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | 3-(decyloxy)-5-[[6-[2,3-bis(phenylmethoxy)phenyl]hexyl]oxy]benzoic acid methyl ester | 2.47 g, 75% yield | COC(C1=CC(=CC(=C1)OCCCCCCC1=C(C(=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)OCCCCCCCCCC)=O | C44H56O6
